US08440830B2
To a solution of 6-tert-butyl 2-ethyl 1,4,5,7-tetrahydro-6H-pyrrolo[2,3-c]pyridine-2,6-dicarboxylate (1.0 eq) in dry THF was added NaH (1.2 eq) at 0° C. and reaction mixture was stirred at room temperature for 30 min. Methyl iodide (6.0 eq.) was added and stirred further at room temperature for 3 hrs. Reaction mixture was quenched with water and extracted with dichloromethane, over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the desired 6-tert-butyl 2-ethyl 1-methyl-1,4,5,7-tetrahydro-6H-pyrrolo[2,3-c]pyridine-2,6-dicarboxylate.

reactant | 6-tert-butyl 2-ethyl 1,4,5,7-tetrahydro-6H-pyrrolo[2,3-c]pyridine-2,6-dicarboxylate | 1.0 eq | N1C(=CC2=C1CN(CC2)C(=O)OC(C)(C)C)C(=O)OCC | C15H22N2O4
reactant | NaH | 1.2 eq | [H-].[Na+]
reactant | Methyl iodide | 6.0 eq. | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 6-tert-butyl 2-ethyl 1-methyl-1,4,5,7-tetrahydro-6H-pyrrolo[2,3-c]pyridine-2,6-dicarboxylate | CN1C(=CC2=C1CN(CC2)C(=O)OC(C)(C)C)C(=O)OCC | C16H24N2O4
